US07820649B2
(1,4-Dibenzylpiperazin-2-yl)methanol (15 g, 50.5 mmol) in DCM (50 mL) was added dropwise to a stirred solution of DAST (7.42 mL, 60.6 mmol) in DCM (150 mL) cooled to −78° C. The reaction mixture was maintained below −30° C. for 24 h before warming to room temperature and stirring for an additional 20 h. The reaction was quenched by the addition of water (100 mL). The organic phase was separated, the aqueous basified with NaOH (aq.) to pH 10 and extracted with DCM (3×75 mL). The combined organics were washed with water (2×100 mL), brine (2×100 mL), dried (Na2SO4) and concentrated under reduced pressure. The resultant oil was purified by chromatography on silica gel with EtOAc:heptane (1:9, v/v) as eluent to afford 1,4-dibenzyl-2-fluoromethylpiperazine (6.0 g, 20.1 mmol, 40%). A biproduct of the reaction was also isolated, 1,4-dibenzyl-6-fluoroperhydro-1,4-diazepine (1.0 g, 3.35 mmol, 7%).

reactant | (1,4-Dibenzylpiperazin-2-yl)methanol | 50.5 mmol, 15 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | DAST | 60.6 mmol, 7.42 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 1,4-dibenzyl-2-fluoromethylpiperazine | 20.1 mmol, 6.0 g, 40% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CF | C19H23FN2
